US07163936B2
Allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate (74.5 mg, 0.16 mmol) and anisole (35 ml, 0.32 mmol) were dissolved in trifluoroacetic acid (6 ml). And then thioisonicotinamide (3 mg) was added to the solution and the mixture was refluxed at 80–90° C. Four hours later the solvent was removed in vacuo. To the residue was added an aqueous 1N NaOH solution to make the solution alkaline. To the solution were added ethyl acetate and hexane, and the solution was separated with a separating funnel. To the aqueous layer was added 6N hydrochloric acid and the solution was separated with a separating funnel by addition of ethyl acetate. The aqueous layer was extracted with ethyl acetate and the organic layer was washed twice with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo to give allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (37.3 mg, 67%).

reactant | Allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.16 mmol, 74.5 mg | NC(=O)OC[C@H]1N(CC=C(C1)C=1N=C(SC1)SCC1=CC=C(C=C1)OC)C(=O)OCC=C | C22H25N3O5S2
reactant | anisole | 0.32 mmol, 35 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | thioisonicotinamide | 3 mg | C(C1=CC=NC=C1)(=S)N | C6H6N2S
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 37.3 mg, 67% | NC(=O)OC[C@H]1N(CC=C(C1)C=1N=C(SC1)S)C(=O)OCC=C | C14H17N3O4S2
